* PEX produced on Wed Apr 22 11:00:47 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1
* NGSPICE file created from vco_core.ext - technology: ihp-sg13g2

.subckt vco_core out gnd vp in pgt dn 1-2 2-3 3-4 4-5
X0 dn in.t0 gnd.t23 gnd.t24 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X1 1-2.t0 out.t3 a_166_778.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X2 vp.t4 pgt.t7 a_838_778.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X3 dn in.t3 gnd.t14 gnd.t15 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X4 vp.t10 pgt.t5 a_1958_778.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X5 gnd.t11 in.t5 dn gnd.t10 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X6 pgt.t1 pgt.t0 vp.t1 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X7 out.t1 4-5.t2 dn gnd.t2 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X8 3-4.t1 2-3.t2 dn gnd.t27 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X9 2-3.t1 1-2.t3 a_614_778.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X10 a_166_778.t0 pgt.t9 vp.t3 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.18u
X11 a_838_778.t0 1-2.t3 2-3.t1 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X12 vp.t12 pgt.t4 a_2406_778.t0 vp.t0 sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.18u
X13 dn in.t4 gnd.t11 gnd.t12 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X14 4-5.t1 3-4.t2 dn gnd.t6 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X15 vp.t1 pgt.t6 a_1286_778.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X16 dn 2-3.t2 3-4.t1 gnd.t28 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X17 2-3.t0 1-2.t2 dn gnd.t4 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X18 dn 3-4.t2 4-5.t1 gnd.t7 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X19 a_614_778.t0 pgt.t7 vp.t2 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X20 gnd.t17 in.t3 dn gnd.t16 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X21 a_2406_778.t0 4-5.t3 out.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X22 a_1286_778.t0 2-3.t3 3-4.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X23 a_1958_778.t0 3-4.t3 4-5.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X24 dn 1-2.t2 2-3.t0 gnd.t5 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X25 dn.t2 4-5.t2 out.t1 gnd.t3 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X26 pgt.t3 in.t2 gnd.t17 gnd.t18 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X27 1-2.t1 out.t2 dn gnd.t0 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X28 vp.t2 pgt.t8 a_390_778.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X29 gnd.t14 in.t4 dn gnd.t13 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X30 gnd.t26 in.t0 dn.t2 gnd.t25 sg13_lv_nmos ad=0.104p pd=1.34u as=59f ps=0.74u w=0.2u l=0.18u
X31 out.t0 4-5.t3 a_2182_778.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X32 a_1734_778.t0 pgt.t5 vp.t8 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X33 dn out.t2 1-2.t1 gnd.t1 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X34 3-4.t0 2-3.t3 a_1062_778.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X35 4-5.t0 3-4.t3 a_1734_778.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X36 a_390_778.t0 out.t3 1-2.t0 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X37 dn in.t1 gnd.t20 gnd.t21 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X38 gnd.t23 in.t1 dn gnd.t22 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
X39 vp.t8 pgt.t0 pgt.t1 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X40 a_2182_778.t0 pgt.t4 vp.t10 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X41 a_1062_778.t0 pgt.t6 vp.t4 vp.t0 sg13_lv_pmos ad=0.114p pd=0.98u as=0.114p ps=0.98u w=0.6u l=0.18u
X42 dn in.t6 gnd.t9 gnd.t8 sg13_lv_nmos ad=59f pd=0.74u as=0.104p ps=1.34u w=0.2u l=0.18u
X43 gnd.t20 in.t2 pgt.t3 gnd.t19 sg13_lv_nmos ad=59f pd=0.74u as=59f ps=0.74u w=0.2u l=0.18u
R0 dn dn.t2 17.0655
R1 in.n5 in.t2 7.5285
R2 in.n0 in.t0 5.45513
R3 in.n2 in.n1 5.44541
R4 in.n5 in.n4 4.51802
R5 in.n2 in.t4 4.39559
R6 in.n3 in.t3 4.39557
R7 in.n0 in.t1 4.39557
R8 in.n3 in.n2 1.06006
R9 in.n4 in.n0 0.807481
R10 in.n4 in.n3 0.789881
R11 in in.n5 0.0179854
R12 in.n1 in.t5 0.00174973
R13 in.n1 in.t6 0.00125025
R14 4-5.n1 4-5.t1 27.3628
R15 4-5.n1 4-5.t0 27.1443
R16 4-5.n0 4-5.t2 17.4624
R17 4-5.n0 4-5.t3 17.2254
R18 4-5 4-5.n0 4.9097
R19 4-5 4-5.n1 4.7293
R20 3-4.n1 3-4.t1 27.4398
R21 3-4.n1 3-4.t0 27.049
R22 3-4.n0 3-4.t2 17.4225
R23 3-4.n0 3-4.t3 17.2254
R24 3-4 3-4.n0 5.2705
R25 3-4 3-4.n1 4.9427
R26 2-3.n1 2-3.t0 27.4728
R27 2-3.n1 2-3.t1 27.1399
R28 2-3.n0 2-3.t2 17.3943
R29 2-3.n0 2-3.t3 17.2526
R30 2-3 2-3.n0 4.9845
R31 2-3 2-3.n1 4.7249
R32 1-2.n1 1-2.t1 32.1238
R33 1-2.n1 1-2.t0 27.2321
R34 1-2.n0 1-2.t2 17.4195
R35 1-2.n0 1-2.t3 17.2908
R36 1-2 1-2.n0 4.9537
R37 1-2 1-2.n1 4.7425
R38 out.n1 out.t0 27.5359
R39 out out.t1 27.013
R40 out.n0 out.t3 17.7415
R41 out.n0 out.t2 17.098
R42 out.n1 out.n0 13.8615
R43 out out.n1 0.0643
R44 pgt pgt.t3 17.9355
R45 pgt.n6 pgt.t1 17.0005
R46 pgt.n5 pgt.t0 7.5429
R47 pgt.n0 pgt.t4 6.31193
R48 pgt.n2 pgt.n1 6.31183
R49 pgt.n2 pgt.t7 5.32633
R50 pgt.n3 pgt.t6 5.32633
R51 pgt.n0 pgt.t5 5.32633
R52 pgt.n5 pgt.n4 4.50362
R53 pgt pgt.n6 2.63363
R54 pgt.n3 pgt.n2 0.9861
R55 pgt.n4 pgt.n0 0.7573
R56 pgt.n4 pgt.n3 0.7221
R57 pgt.n6 pgt.n5 0.612056
R58 pgt.n1 pgt.t8 0.00180034
R59 pgt.n1 pgt.t9 0.00119964
R60 vp.n7 vp.t12 36.0892
R61 vp.n12 vp.t3 35.8715
R62 vp.n9 vp.t2 35.8715
R63 vp.n2 vp.t1 35.8715
R64 vp.n6 vp.t10 35.8715
R65 vp.n4 vp.t8 35.8715
R66 vp.n8 vp.t4 35.8715
R67 vp.n12 vp.n11 8.50325
R68 vp.n11 vp.n3 2.08777
R69 vp.n11 vp.n0 1.35963
R70 vp.n11 vp.n5 1.35925
R71 vp.n11 vp.n1 1.35925
R72 vp.n11 vp.n7 1.24432
R73 vp.n11 vp.n10 1.14739
R74 vp.n11 vp.t0 0.233377
R75 vp.n5 vp.n4 0.21177
R76 vp.n2 vp.n1 0.206171
R77 vp.n10 vp.n9 0.206033
R78 vp.n8 vp.n1 0.202603
R79 vp.n10 vp.n8 0.199116
R80 vp.n6 vp.n5 0.198838
R81 vp.n9 vp.n0 0.195715
R82 vp.n7 vp.n6 0.189086
R83 vp vp.n0 0.163634
R84 vp.n3 vp.n2 0.105891
R85 vp.n4 vp.n3 0.0993266
R86 vp vp.n12 0.0509167
R87 gnd.n27 gnd.t21 152.969
R88 gnd.t15 gnd.n13 148.403
R89 gnd.n2 gnd.t3 143.837
R90 gnd.n24 gnd.t10 143.837
R91 gnd.t2 gnd.n2 139.269
R92 gnd.n24 gnd.t1 139.269
R93 gnd.n13 gnd.t27 134.703
R94 gnd.n8 gnd.t6 133.232
R95 gnd.n27 gnd.t19 130.137
R96 gnd.t13 gnd.n15 128.667
R97 gnd.t25 gnd.n1 124.1
R98 gnd.n21 gnd.t12 124.1
R99 gnd.t24 gnd.n3 119.534
R100 gnd.t0 gnd.n22 119.534
R101 gnd.n12 gnd.t28 114.969
R102 gnd.t18 gnd.n9 110.401
R103 gnd.n7 gnd.t7 105.835
R104 gnd.t5 gnd.n16 101.269
R105 gnd.n18 gnd.t4 96.7032
R106 gnd.t22 gnd.n5 92.137
R107 gnd.n11 gnd.t16 87.5708
R108 gnd.t16 gnd.n10 83.0046
R109 gnd.n6 gnd.t22 78.4384
R110 gnd.t4 gnd.n17 73.8722
R111 gnd.n17 gnd.t5 69.3059
R112 gnd.t7 gnd.n6 64.7397
R113 gnd.n10 gnd.t18 60.1735
R114 gnd.t28 gnd.n11 55.6073
R115 gnd.n23 gnd.t0 51.2673
R116 gnd.n5 gnd.t24 51.0411
R117 gnd.n31 gnd.t25 46.8943
R118 gnd.t12 gnd.n18 46.4749
R119 gnd.n23 gnd.t8 42.3874
R120 gnd.n16 gnd.t13 41.9087
R121 gnd.t6 gnd.n7 37.3425
R122 gnd.n19 gnd.t11 36.0196
R123 gnd.n33 gnd.t26 35.9703
R124 gnd.n32 gnd.t23 35.9703
R125 gnd.n29 gnd.t20 35.9703
R126 gnd.n28 gnd.t17 35.9703
R127 gnd.n25 gnd.t14 35.9703
R128 gnd.n0 gnd.t9 35.9703
R129 gnd.t19 gnd.n9 32.7763
R130 gnd.t27 gnd.n12 28.2101
R131 gnd.n3 gnd.t2 23.6438
R132 gnd.t1 gnd.n22 23.6438
R133 gnd.t3 gnd.n1 19.0776
R134 gnd.t10 gnd.n21 19.0776
R135 gnd.n15 gnd.t15 14.5114
R136 gnd.t21 gnd.n8 9.94521
R137 gnd.n33 gnd.n31 8.52208
R138 gnd gnd.n35 8.51517
R139 gnd.n35 gnd.n24 8.5005
R140 gnd.n35 gnd.n13 8.5005
R141 gnd.n35 gnd.n27 8.5005
R142 gnd.n35 gnd.n2 8.5005
R143 gnd.n35 gnd.n30 2.08777
R144 gnd.n35 gnd.n20 1.14739
R145 gnd.n35 gnd.n26 1.14739
R146 gnd.n35 gnd.n4 1.14739
R147 gnd.n35 gnd.n34 1.14739
R148 gnd.n35 gnd.n14 0.986512
R149 gnd.n35 gnd.n22 0.420446
R150 gnd.n35 gnd.n21 0.420446
R151 gnd.n35 gnd.n18 0.420446
R152 gnd.n35 gnd.n17 0.420446
R153 gnd.n35 gnd.n16 0.420446
R154 gnd.n35 gnd.n15 0.420446
R155 gnd.n35 gnd.n12 0.420446
R156 gnd.n35 gnd.n11 0.420446
R157 gnd.n35 gnd.n10 0.420446
R158 gnd.n35 gnd.n9 0.420446
R159 gnd.n35 gnd.n8 0.420446
R160 gnd.n35 gnd.n7 0.420446
R161 gnd.n35 gnd.n6 0.420446
R162 gnd.n35 gnd.n5 0.420446
R163 gnd.n35 gnd.n3 0.420446
R164 gnd.n35 gnd.n1 0.420446
R165 gnd.n29 gnd.n4 0.243116
R166 gnd.n26 gnd.n25 0.23945
R167 gnd.n20 gnd.n19 0.235366
R168 gnd.n34 gnd.n32 0.224783
R169 gnd.n34 gnd.n33 0.224366
R170 gnd.n19 gnd.n14 0.22435
R171 gnd.n25 gnd.n14 0.219734
R172 gnd.n20 gnd.n0 0.213783
R173 gnd.n28 gnd.n26 0.2097
R174 gnd.n32 gnd.n4 0.206033
R175 gnd.n35 gnd.n23 0.194191
R176 gnd.n30 gnd.n28 0.130493
R177 gnd.n30 gnd.n29 0.0985575
R178 gnd gnd.n0 0.01975
R179 gnd.n35 gnd.n31 0.001
C0 dn out 0.12452f
C1 3-4 pgt 0.27427f
C2 3-4 2-3 0.80854f
C3 1-2 pgt 0.2121f
C4 1-2 2-3 0.83344f
C5 pgt vp 3.86562f
C6 vp 2-3 0.48807f
C7 in pgt 0.03264f
C8 in 2-3 0.16183f
C9 pgt 4-5 0.21548f
C10 3-4 vp 0.49902f
C11 dn 2-3 0.11751f
C12 3-4 in 0.16791f
C13 pgt out 0.22743f
C14 out 2-3 0.27836f
C15 3-4 4-5 0.83967f
C16 1-2 vp 0.54679f
C17 in 1-2 0.16232f
C18 3-4 dn 0.11585f
C19 3-4 out 0.36512f
C20 dn 1-2 0.11933f
C21 1-2 out 1.07106f
C22 in vp 0.02336f
C23 vp 4-5 0.47545f
C24 in 4-5 0.17117f
C25 out vp 0.57943f
C26 dn in 0.2038f
C27 in out 0.22157f
C28 dn 4-5 0.11623f
C29 out 4-5 1.005f
C30 pgt 2-3 0.23132f
C31 dn gnd 1.07403f
C32 in gnd 5.27746f
C33 4-5 gnd 0.98408f
C34 3-4 gnd 1.05381f
C35 2-3 gnd 0.91916f
C36 1-2 gnd 0.94203f
C37 out gnd 1.77574f
C38 pgt gnd 1.12228f
C39 vp gnd 0.43888f
C40 a_166_778.t0 gnd 0.17061f
C41 a_390_778.t0 gnd 0.16469f
C42 a_614_778.t0 gnd 0.16953f
C43 a_838_778.t0 gnd 0.16514f
C44 a_1062_778.t0 gnd 0.16899f
C45 a_1286_778.t0 gnd 0.16623f
C46 a_1734_778.t0 gnd 0.16928f
C47 a_1958_778.t0 gnd 0.16698f
C48 a_2182_778.t0 gnd 0.17029f
C49 a_2406_778.t0 gnd 0.1661f
C50 vp.n0 gnd 0.03233f
C51 vp.n1 gnd 0.04166f
C52 vp.t1 gnd 0.06111f
C53 vp.n2 gnd 0.16018f
C54 vp.n3 gnd 0.01486f
C55 vp.t8 gnd 0.06111f
C56 vp.n4 gnd 0.16037f
C57 vp.n5 gnd 0.04198f
C58 vp.t12 gnd 0.05998f
C59 vp.t10 gnd 0.06111f
C60 vp.n6 gnd 0.17475f
C61 vp.n7 gnd 0.1848f
C62 vp.t4 gnd 0.06111f
C63 vp.n8 gnd 0.17705f
C64 vp.t2 gnd 0.06111f
C65 vp.n9 gnd 0.17712f
C66 vp.n10 gnd 0.0363f
C67 vp.t0 gnd 4.58591f
C68 vp.n11 gnd 0.83145f
C69 vp.t3 gnd 0.05909f
C70 vp.n12 gnd 0.11582f
C71 pgt.t0 gnd 0.28786f
C72 pgt.t4 gnd 0.56785f
C73 pgt.t5 gnd 0.52455f
C74 pgt.n0 gnd 0.52138f
C75 pgt.t8 gnd 0.15404f
C76 pgt.t9 gnd 0.30651f
C77 pgt.n1 gnd 0.1073f
C78 pgt.t7 gnd 0.52455f
C79 pgt.n2 gnd 0.54773f
C80 pgt.t6 gnd 0.52455f
C81 pgt.n3 gnd 0.28336f
C82 pgt.n4 gnd 0.17024f
C83 pgt.n5 gnd 0.10962f
C84 pgt.t1 gnd 0.1155f
C85 pgt.n6 gnd 0.19146f
C86 pgt.t3 gnd 0.0632f
C87 out.t1 gnd 0.12736f
C88 out.t0 gnd 0.18667f
C89 out.t3 gnd 0.39809f
C90 out.t2 gnd 0.3068f
C91 out.n0 gnd 1.43293f
C92 out.n1 gnd 1.10976f
C93 1-2.t3 gnd 0.36505f
C94 1-2.t2 gnd 0.30969f
C95 1-2.n0 gnd 0.91271f
C96 1-2.t0 gnd 0.17887f
C97 1-2.t1 gnd 0.20578f
C98 1-2.n1 gnd 0.95549f
C99 2-3.t3 gnd 0.35722f
C100 2-3.t2 gnd 0.30695f
C101 2-3.n0 gnd 0.87756f
C102 2-3.t1 gnd 0.18072f
C103 2-3.t0 gnd 0.13662f
C104 2-3.n1 gnd 1.03495f
C105 3-4.t3 gnd 0.34992f
C106 3-4.t2 gnd 0.33498f
C107 3-4.n0 gnd 0.90034f
C108 3-4.t0 gnd 0.18771f
C109 3-4.t1 gnd 0.14248f
C110 3-4.n1 gnd 1.03471f
C111 4-5.t3 gnd 0.3229f
C112 4-5.t2 gnd 0.32744f
C113 4-5.n0 gnd 0.86056f
C114 4-5.t1 gnd 0.13061f
C115 4-5.t0 gnd 0.17555f
C116 4-5.n1 gnd 1.00634f
C117 in.t2 gnd 0.0655f
C118 in.t0 gnd 0.13996f
C119 in.t1 gnd 0.12681f
C120 in.n0 gnd 0.13297f
C121 in.t5 gnd 0.04325f
C122 in.t6 gnd 0.06559f
C123 in.n1 gnd 0.03353f
C124 in.t4 gnd 0.12693f
C125 in.n2 gnd 0.14913f
C126 in.t3 gnd 0.12681f
C127 in.n3 gnd 0.07793f
C128 in.n4 gnd 0.04269f
C129 dn.t2 gnd 0.42299f
.ends

